US07227035B2
Synthesis of N-(2-Benzoyl-4-chloro-phenyl)-4-ethyl-benzenesulfonamide
The title compound was prepared according to the general procedure for the synthesis of N-Aryl-benzenesulfonamides previously described using 115 mg of (2-amino-5-chloro-phenyl)-phenyl-methanone and 102 mg of 4-ethyl-benzenesulfonyl chloride. 1H-NMR (400 MHz, CDCl3): δ 1.13 (t, 3H, J=8.0 Hz), 2.53 (q, 2H, J-15.3 Hz, 7.6 Hz), 7.07 (d, 2H, J=8.4 Hz), 7.32 (d, 1H, J=2.8 Hz), 7.34–7.42 (m, 4H), 7.48 (dd, 1H, J=8.8 Hz, 2.4 Hz), 7.56 (m, 3H), 7.76 (d, 1H, J=8.8 Hz), 9.75 (s, 1H). MS: m/z 400.8 (M++1).

reactant | (2-amino-5-chloro-phenyl)-phenyl-methanone | 115 mg | NC1=C(C=C(C=C1)Cl)C(=O)C1=CC=CC=C1 | C13H10ClNO
reactant | 4-ethyl-benzenesulfonyl chloride | 102 mg | C(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C8H9ClO2S
product | N-(2-Benzoyl-4-chloro-phenyl)-4-ethyl-benzenesulfonamide | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)Cl)NS(=O)(=O)C1=CC=C(C=C1)CC | C21H18ClNO3S
